US06066637
5-Fluoro-3-(1-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propyl}piperidin-4-ylmethyl)-1H-indole
Pulverized potassium carbonate (0.33 g, 2.4 mmole) and potassium iodide (0.40 g, 2.4 mmole) was added to a mixture of 4-(5-fluoro-1H-indol-3-yl)methylpiperidine (0.5 g, 2.3 mmole) and 1-(2-chloroethyl)-4-(2-methoxyphenyl)piperazine (0.58 g, 2.3 mmole) in 20 ml of acetonitrile. The resulting mixture was heated to reflux under nitrogen for 3 hours. After cooling, it was diluted with water (150 ml) and the product extracted into ethyl acetate (50 ml). The organic layer was washed with water (50 ml), brine (50 ml), and after drying over sodium sulfate, filtration and concentration in vacuo afforded the required product as a white solid (0.78 g, 76%). Treatment with an excess of 0.25M ethanolic fumaric acid solution gave the acid addition salt, which was recrystallized from ethanol/diethyl ether to afford the title product as white needles.

reactant | potassium carbonate | 2.4 mmole, 0.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2.4 mmole, 0.40 g | [I-].[K+]
reactant | 4-(5-fluoro-1H-indol-3-yl)methylpiperidine | 2.3 mmole, 0.5 g | FC=1C=C2C(=CNC2=CC1)CC1CCNCC1 | C14H17FN2
reactant | 1-(2-chloroethyl)-4-(2-methoxyphenyl)piperazine | 2.3 mmole, 0.58 g | ClCCN1CCN(CC1)C1=C(C=CC=C1)OC | C13H19ClN2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 150 ml | O | H2O
product | 5-Fluoro-3-(1-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propyl}piperidin-4-ylmethyl)-1H-indole | 0.78 g, 76% | FC=1C=C2C(=CNC2=CC1)CC1CCN(CC1)CCCN1CCN(CC1)C1=C(C=CC=C1)OC | C28H37FN4O
